US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(methoxymethyl)pyrrolidine
A solution of 0.025 g (0.057 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethylpyrrolidine, 0.013 g (0.23 mmol) of KOH and 0.028 mL (0.46 mmol) of methyl iodide in 2 mL of DMSO was stirred at rt for 1.2 h. The reaction mixture was poured into ether and washed with sat'd NaHCO3 and NaCl solutions, dried over Na2SO4 and filtered. The filtrate was concentrated and the residue was purified by chromatography (silica, acetone:hexanes, 1:2) to give the title compound. Mass Spectrum (ESI) m/e=461 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethylpyrrolidine | 0.057 mmol, 0.025 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)CO)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H31FN2O2
reactant | KOH | 0.23 mmol, 0.013 g | [OH-].[K+]
reactant | methyl iodide | 0.46 mmol, 0.028 mL | CI | CH3I
reactant | ether | CCOCC | C4H10O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(methoxymethyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)COC)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H33FN2O2
